US08003649B2
A mixture of indazole-3-carboxaldehyde and 3-(difluoromethyl)-6-(piperazin-1-yl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 5 to give 3-(difluoromethyl)-6-[4-(1H-indazol-3-ylmethyl)piperazin-1-yl][1,2,4]triazolo[4,3-b]pyridazine in 65% yield.

reactant | indazole-3-carboxaldehyde | N1N=C(C2=CC=CC=C12)C=O | C8H6N2O
reactant | 3-(difluoromethyl)-6-(piperazin-1-yl)-[1,2,4]triazolo[4,3-b]pyridazine | FC(C1=NN=C2N1N=C(C=C2)N2CCNCC2)F | C10H12F2N6
product | 3-(difluoromethyl)-6-[4-(1H-indazol-3-ylmethyl)piperazin-1-yl][1,2,4]triazolo[4,3-b]pyridazine | 65% yield | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)CC2=NNC1=CC=CC=C21)F | C18H18F2N8
